US04316893
Preparation of 1-n-Heptylazacyclopentan-2-one having the formula:
Following example 1, on refluxing 13 g of 50% oil dispersion of sodium hydride (6.5 g NaH, 0.271 M), 20.35 g (0.239 M) of azacyclopentan-2-one and 47.28 g (0.264 M) of 1-bromoheptane in dry toluene for 21 hours was obtained 13.6 g (31%) of colorless oil; boiling point 115°-120°/0.6 mm.

reactant | sodium hydride | 0.271 M, 6.5 g | [H-].[Na+]
reactant | azacyclopentan-2-one | 0.239 M, 20.35 g | N1C(CCC1)=O | C4H7NO
reactant | 1-bromoheptane | 0.264 M, 47.28 g | BrCCCCCCC | C7H15Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-n-Heptylazacyclopentan-2-one | 13.6 g, 31% | C(CCCCCC)N1C(CCC1)=O | C11H21NO
